US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID Pentylamide
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid pentylamide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(2-trifluoromethylphenyl)methanone, the title compound was obtained as a white solid (94% yield). m.p. 123-125° C. 1H NMR (300 MHz, CDCl3) δ 8.03, 7.85, 7.62, 7.54, 7.35, 6.97, 4.06-3.99, 3.91-3.69, 3.44, 3.33, 1.62-1.55, 1.37-1.33, 0.95-0.81. 13C NMR (75 MHz, CDCl3) δ 167.6, 162.9, 160.0, 145.5, 132.4, 129.5, 127.2, 127.1, 126.9-127.8, 112.5, 77.2, 46.4, 44.6, 44.4, 41.3, 39.4, 29.3, 29.1, 22.4, 14.0. MS (ES+) m/z 450.2 (M+1), 472.2 (M+Na).

reactant | 6-chloropyridazine-3-carboxylic acid pentylamide | C(CCCC)NC(=O)C=1N=NC(=CC1)Cl | C10H14ClN3O
reactant | piperazin-1-yl-(2-trifluoromethylphenyl)methanone | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID Pentylamide | C(CCCC)NC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C22H26F3N5O2
